US07049313B2
4-Benzyloxy-l-(4-methoxy-benzylamino)-thioxanthen-9-one
To a solution of 4-methoxybenzyl amine (1.63 g, 11.89 mmol) in dry pyridine (10 ml) was added 4-Benzyloxy-1-fluoro-thioxanthen-9-one (1 g, 2.97 mmol) in a single portion. The mixture was then heated to reflux (140° C.) for 18 hrs. The resulting hot orange suspension was allowed to cool to room temperature before being poured onto 100 ml of crushed ice. The precipitate was filtered off and washed with copious amounts of water to give the title compound as a red/orange solid (1.35 g, 89.6%). m/z (LC-MS, ESP): 454 [M+H]+ R/T=6.09 mins.

reactant | 4-methoxybenzyl amine | 11.89 mmol, 1.63 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 4-Benzyloxy-1-fluoro-thioxanthen-9-one | 2.97 mmol, 1 g | C(C1=CC=CC=C1)OC1=CC=C(C=2C(C3=CC=CC=C3SC12)=O)F | C20H13FO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-Benzyloxy-l-(4-methoxy-benzylamino)-thioxanthen-9-one | 1.35 g, 89.6% | C(C1=CC=CC=C1)OC1=CC=C(C=2C(C3=CC=CC=C3SC12)=O)NCC1=CC=C(C=C1)OC | C28H23NO3S
